US07414076B2
Preparation of 3-[4-(4-chlorophenyl)piperazin-1-yl]-1-propanesulfonic acid (Compound L)
To a solution of 1-(4-chlorophenyl)piperazine (1.62 g, 8.2 mmol) in acetone (20 mL) was added 1,3-propane sultone (1.06 g, 8.6 mmol). The mixture was stirred at reflux for 2 h. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. This allowed the isolation of compound L, 2.11 g (81%).

reactant | 1-(4-chlorophenyl)piperazine | 8.2 mmol, 1.62 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 1,3-propane sultone | 8.6 mmol, 1.06 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-[4-(4-chlorophenyl)piperazin-1-yl]-1-propanesulfonic acid | ClC1=CC=C(C=C1)N1CCN(CC1)CCCS(=O)(=O)O | C13H19ClN2O3S
